US07396934B2
380 l of ethanol are added to 49.2 kg of 4-chloro-3-ethoxy-carbonyl-6-methoxyquinoline. The suspension is heated at 45° C. for 30 minutes and then cooled to 20° C. 18.65 kg of triethylamine are added under nitrogen, followed by 1.91 kg of palladium-on-charcoal at 5% (at 60% water content). A stream of hydrogen is passed through under 0.5-0.8 bar at 33° C. for 48 hours. At this time, an HPLC1 control shows that the reaction is complete. The reactor is then vented with nitrogen and the reaction medium is then filtered to remove the catalyst. The filter is then rinsed with ethanol. The filtrate is poured over 750 kg of an aqueous ammonia solution. The reaction medium is then stirred at 25° C. over a period of 4 days. The ethanol is then removed by distillation under reduced pressure at a temperature not exceeding 40-45° C. The suspension thus obtained is cooled to 0-5° C. and stirred for 3 hours at this temperature. The precipitate is filtered off, washed with cold water, and then dried at 60-65° C. under reduced pressure until a constant weight is obtained. 26.5 kg (71%) of 6-methoxyquinoline-3-carboxamide are obtained in the form of a white solid which melts at 93.7-95.7° C. (HPLC% NIS=98.3%).

reactant | ethanol | 380 l | C(C)O | C2H6O
reactant | 4-chloro-3-ethoxy-carbonyl-6-methoxyquinoline | 49.2 kg | ClC1=C(C(NC2=CC=C(C=C12)OC)=C=O)OCC | C13H12ClNO3
reactant | hydrogen | [H][H] | H2
reactant | NIS | C1CC(=O)N(C1=O)I | C4H4INO2
catalyst | palladium-on-charcoal | 1.91 kg | [Pd] | Pd
solvent | water | O | H2O
solvent | triethylamine | 18.65 kg | C(C)N(CC)CC | C6H15N
product | 6-methoxyquinoline-3-carboxamide | 26.5 kg, 71% | COC=1C=C2C=C(C=NC2=CC1)C(=O)N | C11H10N2O2
